US06777557B2
4,5-dimethyl-2-(1-hydroxyethyl)-3-(2-oxo-2-phenylethyl)thiazolium bromide
1-(4,5-dimethyl-2-thiazolyl)ethanol (0.24 g, 1.5 mmole), 2-bromo-1-phenyl-1-ethanone (0.3 g, 1.5 mmole) and acetonitrile (0.1 mL) were heated at 45° C. with stirring for 1 hr, then stored at 37° C. for 20 hr, and at 25° C. for 26 hr. The partially solidified mixture was washed with ether and acetonitrile-ether to give 0.25 g of crude product which was recrystalized from acetonitrile-ether to give 0.18 g of the title compound, mp 174-176° C. Calcd for C15H18NO2SBr: C 50.57; H 5.09; N 3.93. Found, C 50.37; H 5.09; N 3.88.

reactant | 1-(4,5-dimethyl-2-thiazolyl)ethanol | 1.5 mmole, 0.24 g | CC=1N=C(SC1C)C(C)O | C7H11NOS
reactant | 2-bromo-1-phenyl-1-ethanone | 1.5 mmole, 0.3 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | acetonitrile | 0.1 mL | C(C)#N | C2H3N
product | 4,5-dimethyl-2-(1-hydroxyethyl)-3-(2-oxo-2-phenylethyl)thiazolium bromide | 0.18 g | [Br-].CC=1[N+](=C(SC1C)C(C)O)CC(C1=CC=CC=C1)=O | InChI=1S/C15H18NO2S.BrH/c1-10-12(3)19-15(11(2)17)16(10)9-14(18)13-7-5-4-6-8-13;/h4-8,11,17H,9H2,1-3H3;1H/q+1;/p-1
